US03974278
15.4 g of 3-fluoro-4-methoxybenzaldehyde, 17.4 g of γ-ethoxyacetoacetic acid ethyl ester and 13 g of β-aminocrotonic acid ethyl ester in 80 ml of ethanol are heated to the boil overnight, the mixture is cooled, and after filtration and rinsing with cold ethanol, 2-ethoxymethyl-6-methyl-4-(3'-fluoro-4'-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained in 35% yield of theory, in the form of white crystals of melting point 120°C.

reactant | 3-fluoro-4-methoxybenzaldehyde | 15.4 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | γ-ethoxyacetoacetic acid ethyl ester | 17.4 g | C(C)OC(CC(=O)COCC)=O | C8H14O4
reactant | β-aminocrotonic acid ethyl ester | 13 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-ethoxymethyl-6-methyl-4-(3'-fluoro-4'-methoxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 35% yield | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=C(C=C1)OC)F)C(=O)OCC)C)COCC | C22H28FNO6
